US03937713
Preparation of s-triazolo[3,4-b]benzothiazole
Five grams (30.0 mmoles) of o-chlorophenylisothiocyanate were dissolved in 50 ml. of dry DMF. A solution of 1.8 g. (30.0 mmoles) of formylhydrazine in 50 ml. of dry DMF was added dropwise rapidly to the stirred reaction mixture. The temperature of the reaction rose to about 45°C. The temperature was maintained between 60°C. and 100°C. for 24 hours. Thirty millimoles, 1.5 g., of sodium hydride as a 50% mineral oil suspension was added to the reaction mixture. The reaction was completed by heating at reflux temperature (160°C.) for about 185 hours. The cooled mixture was poured into water. The aqueous mixture was extracted with n-hexane to remove mineral oil. The product was extracted with ethyl acetate. The ethyl acetate extract was washed (water), dried (MgSO4) and evaporated in vacuo to a residual oil. The oil was covered with dry ether and the product crystallized upon standing. The yield of s-triazolo[3,4-b]benzothiazole, m.p. about 175°-176°C., was 200 mg.

reactant | o-chlorophenylisothiocyanate | 30.0 mmoles, Five grams | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | formylhydrazine | 30.0 mmoles | C(=O)NN | CH4N2O
reactant | sodium hydride | [H-].[Na+]
solvent | water | O | H2O
product | s-triazolo[3,4-b]benzothiazole | N=1N=CN2C1SC1=C2C=CC=C1 | C8H5N3S
